US08877782B2
N-(2-Hydroxy-ethyl)-6-(3-phenyl-5-trifluoromethyl-isoxazol-4-ylmethoxy)-nicotinamide
As described for example 129, 6-(3-phenyl-5-trifluoromethyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (100 mg, 0.26 mmol) was converted, using ethanolamine instead of methylamine (2 M in THF), to the title compound (26 mg, 24%) which was obtained as an off white solid. MS: m/e=408.3 [M+H]+.

reactant | 6-(3-phenyl-5-trifluoromethyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 0.26 mmol, 100 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C(F)(F)F)C1=CC=CC=C1)=O | C18H13F3N2O4
reactant | ethanolamine | C(O)CN | C2H7NO
product | N-(2-Hydroxy-ethyl)-6-(3-phenyl-5-trifluoromethyl-isoxazol-4-ylmethoxy)-nicotinamide | 26 mg, 24% | OCCNC(C1=CN=C(C=C1)OCC=1C(=NOC1C(F)(F)F)C1=CC=CC=C1)=O | C19H16F3N3O4
